US05885986
0.82 g (0.00187 mol) of 3-(5-dibutylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one in 50 ml of acetic acid was treated with 0.53 ml (0.00196 mol) of 3.7N ethanolic hydrochloric acid. After stirring at 0° for 1/2 hr. the white suspension was suction filtered. There was obtained 0.84 g (94%) of 3-(5-dibutylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as white crystals; m.p. 251°-254° (dec.).

reactant | 3-(5-dibutylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 0.00187 mol, 0.82 g | C(CCC)N(CCCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C24H30FN5O2
reactant | hydrochloric acid | 0.00196 mol, 3.7N, 0.53 ml | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-(5-dibutylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.84 g, 94% | Cl.C(CCC)N(CCCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | InChI=1S/C24H30FN5O2.ClH/c1-4-6-10-29(11-7-5-2)14-18-13-26-23(32-18)22-21-15-28(3)24(31)19-12-17(25)8-9-20(19)30(21)16-27-22;/h8-9,12-13,16H,4-7,10-11,14-15H2,1-3H3;1H
